US05705511
Preparation of 3-Ethynyl-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one (Compound I-36)
To a solution of 3-bromo-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one (Compound I-9) (435 mg, 1.1 mmol), trimethylsilylacetylene (0.47 ml, 3.3 mmol) and triethylamine (1.0 mL) in DMF (11 mL) was added bis(triphenylphosphine)palladium(II)chloride (17 mg). The solution was heated in a sealed reaction tube at 100°-110° C. for 24 h. The mixture was cooled to ambient temperature, filtered through a pad of celite then the solvent concentrated at reduced pressure. The product was dissolved in DMF (8 mL), MeOH (8 mL) cesium fluroide (370 mg, 2.4 mmol) added and the mixture stirred at ambient temperature 24 h. The solvent was concentrated at reduced pressure to give a dark solid. Purification by column chromatography (silica gel, EtOAc:MeOH; 10:1, Rf =0.53) give 30 mg of a tan solid. The compound was further purified by preparative TLC (silica gel, EtOAc:hexane; 3:1) to give Compound I-36 as a tan solid, mp>300° C. 1H NMR (DMSO-d6, 300 MHz): d 4.2 (s, 2H), 5.0 (s, 2H), 7.38-7.46 (m, 3H), 7.58-7.75 (m,4H), 8.15 (s, 1H), 9.42 (d, 1H, J=9 Hz), 12.19 (s, 1H; MS m/e=335 (m+).

reactant | 3-bromo-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one | 1.1 mmol, 435 mg | BrC1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C21H13BrN2O
reactant | trimethylsilylacetylene | 3.3 mmol, 0.47 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II)chloride | 17 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-Ethynyl-5H,6H,12H,13H-indeno[2,3-a]pyrrolo[3,4-c]carbazole-7(7H)one | 30 mg | C(#C)C1=CC2=C(C=C1)CC1=C2C2=C(C=3C4=CC=CC=C4NC13)C(NC2)=O | C23H14N2O
